US04880801
(±)-(trans)-5-Fluoro-2,3-dihydro-2,3-bis[(phenylmethoxy)methyl]-1,4-benzodioxin
A mixture of 3-fluorobenzene-1,2-diol (5.12 g) and (R*,R*)-(±)-1,4-bis(phenylmethoxy)-2,3-butanediol, bis(4-methylbenzenesulphonate) (24.4 g) was stirred with dimethylformamide (D.M.F.) (160 ml) under a nitrogen stream for 45 min. Anhydrous cesium carbonate (13.0 g) was added and the mixture was heated to 150° under reflux for 18 hours. The dark brown mixture was cooled to 30° and diluted with di-isopropyl ether (370 ml) and water (320 ml). The layers were separated and the aqueous layer was re-extracted with di-isopropyl ether (150 ml then 100 ml). The extracts were sequentially washed with M hydrochloric acid (300 ml), 30% aqueous sodium chloride (100 ml) and were combined and evaporated in vacuo to a dark brown oil (12.6 g) which was dissolved in light petroleum-dichloromethane (3:1) (40 ml) and chromatographed over Sorbsil (126 g) using light petroleum-dichloromethane mixtures of gradually increasing polarity. Combination of appropriate fractions and evaporation of the solvents gave the title compound as a yellow oil (7.0 g), NMR τ (CDCl3) 2.6-2.8 (10H, m, Ph), 3.18-3.38 (3H, m, 6-H, 7-H, 8-H), 5.32-5.58 (4H, m, CH2Ph), 5.64 (2H, m, 2-H, 3-H), 6.06-6.32 (4H, m, CH2O).

reactant | 3-fluorobenzene-1,2-diol | 5.12 g | FC1=C(C(=CC=C1)O)O | C6H5FO2
reactant | (R*,R*)-(±)-1,4-bis(phenylmethoxy)-2,3-butanediol | C1(=CC=CC=C1)COC[C@H]([C@@H](COCC1=CC=CC=C1)O)O | C18H22O4
reactant | dimethylformamide | 160 ml | CN(C=O)C | C3H7NO
reactant | cesium carbonate | 13.0 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | di-isopropyl ether | 370 ml | C(C)(C)OC(C)C | C6H14O
solvent | water | 320 ml | O | H2O
product | (±)-(trans)-5-Fluoro-2,3-dihydro-2,3-bis[(phenylmethoxy)methyl]-1,4-benzodioxin | 7.0 g | FC1=CC=CC=2O[C@H]([C@@H](OC21)COCC2=CC=CC=C2)COCC2=CC=CC=C2 | C24H23FO4
